US04187303
7.9 g (32.7 mmol) of 3-chloromethyl-2-N-methylthiophenesulfonamide and 4.7 g (72 mmol) of potassium cyanide are heated to 80° C. for 15 minutes in 40 ml of triethyleneglycol. Thereafter, the mixture is poured into 100 ml of 2-N hydrochloric acid and 50 g of ice and extracted with three 200 ml portions of methylene chloride. The combined organic phases are dried over sodium sulfate, stirred with 1 g of active carbon, filtered and evaporated to give a noncrystallizing oil. There is obtained 3-cyanomethyl-2-N-methylthiophenesulfonamide.

reactant | 3-chloromethyl-2-N-methylthiophenesulfonamide | 32.7 mmol, 7.9 g | ClCC1=C(SC=C1)S(=O)(=O)NC | C6H8ClNO2S2
reactant | potassium cyanide | 72 mmol, 4.7 g | [C-]#N.[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | triethyleneglycol | 40 ml | C(COCCOCCO)O | C6H14O4
product | 3-cyanomethyl-2-N-methylthiophenesulfonamide | C(#N)CC1=C(SC=C1)S(=O)(=O)NC | C7H8N2O2S2
